US07666890B2
Preparation of 1-(6-bromo-2-mercaptobenzo[d]thiazol-5-yl)-4-(difluoromethyl)-3-methyl-1H-1,2,4-triazol-5(4H)-one
30 mL N,N-dimethylformamide was charged with 0.01 mol 1-(5-amino-2-bromo-4-fluorophenyl)-4-(difluoromethyl)-3-methyl-1H-1,2,4-triazol-5(4H)-one. The mixture was stirred until it became clear. Then, 0.02 mol potassium ethyl xanthogenate was added to the mixture in two portions. The mixture was refluxed at 140° C. for 7 h, cooled, and poured into 100 mL ice water slurry. Then, the mixture was acidified with 6 mol/L hydrochloric acid, and a large amount of solids crushed out. The title compound was obtained in a 48% yield as a white solid after filtration.

reactant | 1-(5-amino-2-bromo-4-fluorophenyl)-4-(difluoromethyl)-3-methyl-1H-1,2,4-triazol-5(4H)-one | 0.01 mol | NC=1C(=CC(=C(C1)N1N=C(N(C1=O)C(F)F)C)Br)F | C10H8BrF3N4O
reactant | potassium ethyl xanthogenate | 0.02 mol | CCOC(=S)[S-].[K+]
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-(6-bromo-2-mercaptobenzo[d]thiazol-5-yl)-4-(difluoromethyl)-3-methyl-1H-1,2,4-triazol-5(4H)-one | 48% yield | BrC1=CC2=C(N=C(S2)S)C=C1N1N=C(N(C1=O)C(F)F)C | C11H7BrF2N4OS2
